simulator lang=spectre
global 0

ahdl_include "./dut/dc_aware_adc3bit.va"

Vin (vin 0) vsource type=pwl wave=[0n -0.05 1n -0.05 1.02n 0.04 3n 0.04 3.02n 0.19 5n 0.19 5.02n 0.38 7n 0.38 7.02n 0.62 9n 0.62 9.02n 0.87 11n 0.87 11.02n 1.1]

XDUT (vin d2 d1 d0) dc_aware_adc3bit

tran tran stop=13n maxstep=10p
save vin d2 d1 d0
